US05331084
Preparation of 2,3-epoxy-5-(2,2,3,3,4,4,5,5,6,6,7,7,7-tridecafluoroheptyl)bicyclo[2.2.1]heptane
10.7 g (25 mmol) of the Diels-Alder product of 4,4,5,5,6,6,7,7,8,8,9,9,9-tridecafluoro-1-nonene (perfluorohexyl-1-propene) and cyclopentadiene are mixed in 10 ml of dry toluene with 326 mg (1 mmol) of molybdenum acetylacetonate, and 13 ml of a2.9 molar solution of t-butyl hydroperoxide in toluene (37.5 mmol) are added dropwise at 22° C. within 30 minutes. During this period, thetemperature rises to 60° C. The solution is then held at 60° C. for another 2 hours. The low-boiling components are distilled off underreduced pressure at 40° C., and the residue is chromatographed on silica gel. The mobile solvent used is a mixture of hexane/methylene chloride/diethyl ether (10:10:0.5 parts by volume). The product-containingfractions are combined. After the mobile solvent is distilled off, 7.3 g ofa white solid remain behind.

reactant | 4,4,5,5,6,6,7,7,8,8,9,9,9-tridecafluoro-1-nonene | FC(CC=C)(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)F | C9H5F13
reactant | cyclopentadiene | C1=CC=CC1 | C5H6
reactant | t-butyl hydroperoxide | C(C)(C)(C)OO | C4H10O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 37.5 mmol | C1(=CC=CC=C1)C | C7H8
product | 2,3-epoxy-5-(2,2,3,3,4,4,5,5,6,6,7,7,7-tridecafluoroheptyl)bicyclo[2.2.1]heptane | O1C2C3CC(C(C21)C3)CC(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F | C14H11F13O
